US05302257
A divided glass H-cell, as described in example 6.1 but smaller in size (50 ml in anode and cathode compartment), is charged in the cathode with 40 mL, 5% H3Po4 solution and in the anode with K2CO3 (4.1 g, 30 mmol), H2O (25 mL), t-BuOH (25 mL), chiral ligand, PHAL-DHQD (390 mg, 0.5 mmol), OsO4 (0.196 M in toluene, 2.6 mL, 0.5 mmol) and finally α-methylstyrene (1.2 g, 10 mmol). The mixture is electrolyzed at 20° C. and 0.5 V (vs Ag/AgCl) working potential using platinum foils as the anode and cathode. After ca. 2000 coulombs of electricity is consumed, the reaction is worked up as Example 6.7 to give (R)-2-phenyl-1.2-propanediol in good yield.

reactant | K2CO3 | 30 mmol, 4.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 25 mL | O | H2O
reactant | α-methylstyrene | 10 mmol, 1.2 g | CC(=C)C1=CC=CC=C1 | C9H10
catalyst | OsO4 | 0.5 mmol, 0.196 M, 2.6 mL | O=[Os](=O)(=O)=O
catalyst | platinum | [Pt] | Pt
solvent | t-BuOH | 25 mL | CC(C)(C)O | C4H10O
product | (R)-2-phenyl-1.2-propanediol | C1(=CC=CC=C1)[C@@](CO)(C)O | C9H12O2
